US06437146B1
To a solution of (S)-N-[2-(2-pyridyl)ethyl]-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzamide (130 mg, 0.241 mmol) in ethyl ether (4 ml) was added 4N hydrogen chloride in EtOAc (0.5 ml) at room temperature. The solvent was removed in vacuo and the resulting solid was collected, washed with ethyl ether, and dried to give (S)-N-[2-(2-pyridyl)ethyl]-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzamide hydrochloride (135.2 mg, 97%).

reactant | (S)-N-[2-(2-pyridyl)ethyl]-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzamide | 0.241 mmol, 130 mg | N1=C(C=CC=C1)CCNC(C1=CC(=CC=C1)C[C@H]1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C36H33N3O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl ether | 4 ml | C(C)OCC | C4H10O
solvent | EtOAc | 0.5 ml | CCOC(=O)C | C4H8O2
product | (S)-N-[2-(2-pyridyl)ethyl]-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzamide hydrochloride | 135.2 mg, 97% | Cl.N1=C(C=CC=C1)CCNC(C1=CC(=CC=C1)C[C@H]1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C36H33N3O2.ClH/c40-35(38-23-21-31-19-9-10-22-37-31)30-18-11-12-26(25-30)24-29-17-7-8-20-32(29)36-39-33(27-13-3-1-4-14-27)34(41-36)28-15-5-2-6-16-28;/h1-6,9-16,18-20,22,25,29H,7-8,17,21,23-24H2,(H,38,40);1H/t29-;/m0./s1
